US05691384
N-(2-Diethylaminoethyl)-N-acetyl-4-aminobenzophenone
Combine N-acetyl-4-aminobenzophenone (250 g, 1.05 mol), 2-diethylaminoethyl chloride hydrochloride (207.5 g, 1.20 mol), and 85% potassium hydroxide (140 g, 2.12 mol) in acetone (3 L). Heat to reflux. After 2 hours, cool and filter. Evaporate the filtrate in vacuo to give a residue. Combine the residue and t-butyl methyl ether (1 L) and water (2 L). Add aqueous 1M hydrochloric acid solution until the pH is about 2.5. Separate the aqueous layer and extract several times with t-butyl methyl ether. Adjust the pH of the aqueous layer to 10 using aqueous 50% sodium hydroxide solution. Extract the aqueous layer twice with dichloromethane. Dry the combined dichlormethane layers over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting sequentially with ethyl acetate, 5/95 methanol/ethyl acetate, 10/90 methanol/ethyl acetate to give the title compound: Rf =0.36 (silica gel, 2/8/0.1 methanol/ethyl acetate/triethylamine).

reactant | N-acetyl-4-aminobenzophenone | 1.05 mol, 250 g | C(C)(=O)NC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C15H13NO2
reactant | 2-diethylaminoethyl chloride hydrochloride | 1.20 mol, 207.5 g | Cl.C(C)N(CCCl)CC
reactant | potassium hydroxide | 2.12 mol, 140 g | [OH-].[K+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | acetone | 3 L | CC(=O)C | C3H6O
solvent | methanol ethyl acetate | CO.C(C)(=O)OCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 2 L | O | H2O
solvent | t-butyl methyl ether | 1 L | COC(C)(C)C | C5H12O
product | N-(2-Diethylaminoethyl)-N-acetyl-4-aminobenzophenone | C(C)N(CCN(C1=CC=C(C(=O)C2=CC=CC=C2)C=C1)C(C)=O)CC | C21H26N2O2
